US05578620
5-[4-{2(S)-[5(R)-(3-Chlorophenoxymethyl)-2-oxooxazolidin-3-yl]propoxy}benzyl]thiazolidine-2,4-dione (Compound No. 1-94)
A procedure similar to that described in Example 1 was repeated, except that 0.73 g of 5-[4-{2(S)-[5(R)-(3-chlorophenoxymethyl)-2-oxooxazolidin-3-yl]propoxy}benzyl]-3-triphenylmethylthiazolidine-2,4-dione (prepared as described in Preparation 37), 4 ml of methylene chloride and 4 ml of trifluoroacetic acid were used, to give 0.39 g of the title compound having a melting point of 55° C. to 60° C. (softening) and having [α]D =-52.4° (methanol, c=0.990).

reactant | 5-[4-{2(S)-[5(R)-(3-chlorophenoxymethyl)-2-oxooxazolidin-3-yl]propoxy}benzyl]-3-triphenylmethylthiazolidine-2,4-dione | 0.73 g | ClC=1C=C(OC[C@H]2CN(C(O2)=O)[C@H](COC2=CC=C(CC3C(N(C(S3)=O)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)=O)C=C2)C)C=CC1 | C42H37ClN2O6S
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 5-[4-{2(S)-[5(R)-(3-Chlorophenoxymethyl)-2-oxooxazolidin-3-yl]propoxy}benzyl]thiazolidine-2,4-dione | 0.39 g | ClC=1C=C(OC[C@H]2CN(C(O2)=O)[C@H](COC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C)C=CC1 | C23H23ClN2O6S
